US06977262B2
5-Cyano-4,7-dihydro-6-(piperidin-4-yl)-4-(pyridin-3-yl)-2H-pyrazolo[3,4-b]pyridine 3 Hydrochloride
The title compound was prepared from ethyl nipecotate, pyridine-3-aldehyde and 3-aminopyrazole in the same manner as in Examples 1001 and 1002.

reactant | ethyl nipecotate | N1CC(C(=O)OCC)CCC1 | C8H15NO2
reactant | pyridine-3-aldehyde | N1=CC(=CC=C1)C=O | C6H5NO
reactant | 3-aminopyrazole | NC1=NNC=C1 | C3H5N3
product | 5-Cyano-4,7-dihydro-6-(piperidin-4-yl)-4-(pyridin-3-yl)-2H-pyrazolo[3,4-b]pyridine | C(#N)C=1C(C=2C(NC1C1CCNCC1)=NNC2)C=2C=NC=CC2 | C17H18N6
